US04155996
11.2 g of potassium carbonate and 12.8 g of O,O-dimethyl chlorothiophosphate were added to a solution of 11.2 g of 2-cyano-3-hydroxy-5-methyl-thiophene in 200 ml of acetone and the mixture was stirred for 15 hours at 20° C. and was then filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 7-3 cyclohexane-ethyl acetate mixture yielded 18.7 g of 2-cyano-3-(dimethoxythiophosphoryloxy)-5-methyl-thiophene with a refractive index of nD20 =1.539.

reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-dimethyl chlorothiophosphate | 12.8 g | P(=S)(OC)(OC)Cl | C2H6ClO2PS
reactant | 2-cyano-3-hydroxy-5-methyl-thiophene | 11.2 g | C(#N)C=1SC(=CC1O)C | C6H5NOS
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-cyano-3-(dimethoxythiophosphoryloxy)-5-methyl-thiophene | 18.7 g | C(#N)C=1SC(=CC1OP(=S)(OC)OC)C | C8H10NO3PS2
